US08871782B2
1-[4-Amino-2-(ethoxymethyl)-7-(piperidinyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol (from Part A) was slurried in dichloromethane (11 mL). Acetic anhydride (0.105 mL, 1.03 mmol) was added and the reaction was stirred for 16 hours. The reaction mixture was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 2-25% CMA in chloroform). The resulting solid was covered with diethyl ether for one week. Filtration of the solid provided 0.130 g of 1-[7-[(1-acetylpiperidinyl)oxy]-4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as red-tan crystals, mp 162-164° C.

reactant | 1-[4-Amino-2-(ethoxymethyl)-7-(piperidinyloxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)ON2CCCCC2 | C22H31N5O3
reactant | Acetic anhydride | 1.03 mmol, 0.105 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | 1-[7-[(1-acetylpiperidinyl)oxy]-4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 0.130 g | C(C)(=O)N1C(CCCC1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)(O)C)COCC | C24H33N5O4
